US06794395B1
(4) 3-(Z)-(1-{4-[N-(2-dimethylaminoethyl)-N-methylsulphonyl-amino]-anilino}-1-phenyl-methylidene)-5,6-dimethoxy-2-indolinone
Prepared from 1-acetyl-3-(1-ethoxy-1-phenyl-methylidene)-5,6-dimethoxy-2-indolinone and N-(2-dimethylamino-ethyl)-N-methylsulphonyl-p-phenylenediamine

reactant | 1-acetyl-3-(1-ethoxy-1-phenyl-methylidene)-5,6-dimethoxy-2-indolinone | C(C)(=O)N1C(C(C2=CC(=C(C=C12)OC)OC)=C(C1=CC=CC=C1)OCC)=O | C21H21NO5
reactant | N-(2-dimethylamino-ethyl)-N-methylsulphonyl-p-phenylenediamine | CN(CCN(C1=CC=C(C=C1)N)S(=O)(=O)C)C | C11H19N3O2S
product | 3-(Z)-(1-{4-[N-(2-dimethylaminoethyl)-N-methylsulphonyl-amino]-anilino}-1-phenyl-methylidene)-5,6-dimethoxy-2-indolinone | CN(CCN(S(=O)(=O)C)C1=CC=C(N\C(\C2=CC=CC=C2)=C\2/C(NC3=CC(=C(C=C23)OC)OC)=O)C=C1)C | C28H32N4O5S
